US06723722B1
The resultant 4-benzyloxycarbonyl-1-{[1-(tert-butoxycarbonyl)-4-piperidinylidene]amino}-2-piperazinone was dissolved in methanol (40 ml), combined with acetic acid (1.2 g) with cooling on ice, followed by sodium cyanoborohydride (943 mg), and then stirred at room temperature for 30 minutes. The reaction mixture was concentrated, and the residue was dissolved in ethyl acetate, washed with aqueous sodium bicarbonate and brine, dried, concentrated and purified by a column chromatography (ethyl acetate) to obtain 4-benzyloxycarbonyl-1-[1-(tert-butoxycarbonyl)-4-piperidinylamino]-2-piperazinone (3.7 g) as a colorless amorphous material.

reactant | 4-benzyloxycarbonyl-1-{[1-(tert-butoxycarbonyl)-4-piperidinylidene]amino}-2-piperazinone | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)N=C1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H30N4O5
reactant | acetic acid | 1.2 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 943 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 4-benzyloxycarbonyl-1-[1-(tert-butoxycarbonyl)-4-piperidinylamino]-2-piperazinone | 3.7 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)NC1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H32N4O5
